US07576135B2
2-[(5-chlorothiazol-2-yl)amino]-2-oxoacetic acid methyl ester
In a manner similar to that employed in Referential Example 242, the title compound was prepared from 2-amino-5-chlorothiazole and methyl chlorooxoacetate.

reactant | 2-amino-5-chlorothiazole | NC=1SC(=CN1)Cl | C3H3ClN2S
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-[(5-chlorothiazol-2-yl)amino]-2-oxoacetic acid methyl ester | COC(C(=O)NC=1SC(=CN1)Cl)=O | C6H5ClN2O3S
